US07429612B2
N-[5-(N-methoxycarbonylsulfamoylamino)-4,6-dimethyl-1-octylindolin-7-yl]-2,2-dimethylpropanamide
Methanol (0.13 mL) was added to methylene chloride (2.6 mL) and chlorosulfonyl isocyanate (0.29 mL) was added at −20° C. The mixture was stirred at −20° C. to 10° C. for 20 min. N-(5-Amino-4,6-dimethyl-1-octylindolin-7-yl)-2,2-dimethylpropanamide (612 mg) and triethylamine (0.46 mL) were added to the reaction mixture and the mixture was further stirred at −9° C. for 30 min. Methylene chloride was added to the reaction mixture, and the mixture was washed successively with 10% aqueous citric acid, saturated aqueous sodium hydrogencarbonate and saturated brine and dried over sodium sulfate. Methylene chloride was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as crystals. (601 mg).

reactant | Methanol | 0.13 mL | CO | CH4O
reactant | chlorosulfonyl isocyanate | 0.29 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N-(5-Amino-4,6-dimethyl-1-octylindolin-7-yl)-2,2-dimethylpropanamide | 612 mg | NC=1C(=C2CCN(C2=C(C1C)NC(C(C)(C)C)=O)CCCCCCCC)C | C23H39N3O
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.46 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2.6 mL | C(Cl)Cl | CH2Cl2
product | N-[5-(N-methoxycarbonylsulfamoylamino)-4,6-dimethyl-1-octylindolin-7-yl]-2,2-dimethylpropanamide | COC(=O)NS(=O)(=O)NC=1C(=C2CCN(C2=C(C1C)NC(C(C)(C)C)=O)CCCCCCCC)C | C25H42N4O5S
